US07977477B2
To a suspension of rac-4-benzyl-2-morpholinecarboxylic acid hydrochloride (77 mg, 0.30 mmol) in THF (2 ml) was added DMF (2.0 μl, 0.025 mmol) followed by oxalyl chloride (36 ul, 0.41 mmol). After stirring at room temperature for 20 min. the mixture was evaporated to dryness and then re-suspended in THF (2 ml). A solution of 3-(5,6-dimethoxy-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine (60 mg, 0.2 mmol) and diisopropylethylamine (110 μl, 0.9 mmol) in THF (1 ml) was then added and the reaction stirred for at room temperature for 1 h. After 1 h, MeOH (1 ml) was added, the mixture concentrated and the residue purified through preparative LC/MS to give N-[3-(5,6-dimethoxy-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-rac-4-benzyl-2-morpholinecarboxamide (AT8769) as a white solid (10 mg, 9%). (LC/MS (basic method): Rt 2.86 min, [M+H]+ 463).

reactant | rac-4-benzyl-2-morpholinecarboxylic acid hydrochloride | 0.30 mmol, 77 mg | Cl.C(C1=CC=CC=C1)N1CC(OCC1)C(=O)O
reactant | DMF | 0.025 mmol, 2.0 μl | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.41 mmol, 36 ul | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(5,6-dimethoxy-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine | 0.2 mmol, 60 mg | COC1=CC2=C(NC(=N2)C2=NNC=C2N)C=C1OC | C12H13N5O2
reactant | diisopropylethylamine | 0.9 mmol, 110 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | MeOH | 1 ml | CO | CH4O
product | N-[3-(5,6-dimethoxy-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-rac-4-benzyl-2-morpholinecarboxamide | 10 mg, 9% | COC1=CC2=C(NC(=N2)C2=NNC=C2NC(=O)C2CN(CCO2)CC2=CC=CC=C2)C=C1OC | C24H26N6O4
